US06589970B2
A mixture of 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (0.5 g, 1.14 mmol), prepared in the previous step, bromoacetonitrile (95 μL, 1.36 mmol) and potassium carbonate (0.79 g, 5.7 mmol) in 20 mL of DMF was stirred under nitrogen at room temperature for 18 h (overnight). The reaction was diluted with ethyl acetate and extracted multiple times with water. The organic layer was dried (MgSO4) and the solvent removed under reduced pressure to give a dark brown oil. The oil was chromatographed on 50 g of silica gel (230-400 mesh) using 5% ethyl acetate in methylene chloride as the eluent. Isolation of the desire component gave 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (0.39 g, 72%) as a light yellow foam, MS m/z: 477 [M+H]+.

reactant | 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 1.14 mmol, 0.5 g | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(=O)C1=C(OC2=C1C=CC=C2)CC)C | C23H20BrNO3
reactant | bromoacetonitrile | 1.36 mmol, 95 μL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 5.7 mmol, 0.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 0.39 g, 72% | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=C(OC2=C1C=CC=C2)CC)C | C25H21BrN2O3
